US07732461B2
Racemic 3-chloro-4-[(4-{[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one dihydrochloride
Racemic 3-chloro-4-[(4-{[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one was converted to the dihydrochloride by dissolving in chloroform and adding 1M HCl/diethyl ether then evaporating to dryness. MS as that of free base.

reactant | Racemic 3-chloro-4-[(4-{[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3CCC(CC3)NCC=3C=CC=1SCC(NC1N3)=O)=O | C24H25ClN6O2S
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | HCl diethyl ether | 1M | Cl.C(C)OCC
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Racemic 3-chloro-4-[(4-{[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one dihydrochloride | Cl.Cl.ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3CCC(CC3)NCC=3C=CC=1SCC(NC1N3)=O)=O | InChI=1S/C24H25ClN6O2S.2ClH/c25-17-10-27-18-2-4-21(33)31-12-14(22(17)23(18)31)11-30-7-5-15(6-8-30)26-9-16-1-3-19-24(28-16)29-20(32)13-34-19;;/h1-4,10,14-15,26H,5-9,11-13H2,(H,28,29,32);2*1H
